US07919506B2
(3,5-Bis-trifluoromethyl-benzyl)-[2-(1-cyclohexyl-1-methoxy-ethyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine
To a solution of 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-1-cyclohexylethanol (26 mg; 0.043 mmol) in tetrahydrofuran (0.7 mL) was added sodium hydride (11 mg; 0.275 mmol; 60% dispersion in mineral oil). After stirring for 30 minutes at room temperature, iodomethane (30 uL; 0.485 mmol) was added. The reaction was stirred for 16 hours. More sodium hydride (12 mg; 0.3 mmol; 60% dispersion in mineral oil) and iodomethane (30 uL; 0.485 mmol) were added. After 1 hour more sodium hydride (12 mg; 0.3 mmol; 60% dispersion in mineral oil) was added. After 30 minutes, iodomethane (30 uL; 0.485 mmol) was added. The reaction was stirred for 2 hours. The reaction was quenched with aqueous 2N hydrochloric acid (6 drops). The mixture was diluted with ethyl acetate and filtered over sodium sulfate/silica plug. Then the solution was concentrated. The residue was purified by 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 5-25% ethyl acetate in heptane) to give 19 mg (71% yield) of a colorless gum. MS (ES+): Calc: 623.5, Found: 592.5 (M-OCH3). 1H NMR (400 MHz, CDCl3) δ ppm 7.78 (s, 1H), 7.73 (s, 2H), 7.46 (s, 1H), 7.45 (d, J=7.47 Hz, 1H), 7.27 (d, J=8.30 Hz, 1H), 5.25 (d, J=17.43 Hz, 1H), 5.07 (d, J=17.43 Hz, 1H), 4.79 (q, J=16.60, 16.18 Hz, 2H), 4.19 (s, 3H), 3.02 (s, 3H), 2.01 (d, J=11.2 Hz, 1H), 1.78-1.67 (m, 2H), 1.66-1.55 (m, 2H), 1.53 (s, 3H), 1.11-0.83 (m, 6H).

reactant | 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-1-cyclohexylethanol | 0.043 mmol, 26 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C)(O)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C27H28F9N5O
reactant | sodium hydride | 0.275 mmol, 11 mg | [H-].[Na+]
reactant | iodomethane | 0.485 mmol, 30 uL | IC | CH3I
reactant | sodium hydride | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | iodomethane | 0.485 mmol, 30 uL | IC | CH3I
reactant | sodium hydride | 0.3 mmol, 12 mg | [H-].[Na+]
reactant | iodomethane | 0.485 mmol, 30 uL | IC | CH3I
solvent | tetrahydrofuran | 0.7 mL | O1CCCC1 | C4H8O
product | (3,5-Bis-trifluoromethyl-benzyl)-[2-(1-cyclohexyl-1-methoxy-ethyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine | 19 mg, 71% yield | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C)(OC)C2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C28H30F9N5O
